Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: NEUROLOGY
 
Allergies: 
codeine
 
Attending: ___.
 
Chief Complaint:
GTC
 
Major Surgical or Invasive Procedure:
Lumbar puncture

 
History of Present Illness:
___ hx seizure disorder on keppra, depression ,anxiety, graves
disease, HTN restless leg syndrome, OSA not on CPAP, aortic
stenosis s/p valve repair, thyrotoxic periodic paralysis who
presents as an intubated transfer from ___. 

Briefly, pt was reportedly golfing when he developed GTC. He was
brought to ___, en route received a total of lorazepam 6 
mg
which did not brake the seizure. At ___ was given keppra
1.5g, phenytoin 1g and seizure broke. Patient was intubated for
airway protection. Workup there notable for WBC 15, glucose 222,
normal renal function, normal NCHCT. 
Per wife who is at bedside, pt developed sz 6 months ago. 
Follows
with Neurologist in ___ (Dr. ___).Per wife 
initially
it was thought that he had a sz due missed Xanax. However when 
he
had another sz soon after he was started on keppra.  Family
states that he had circa 9 sz since he was diagnosed with sz.
Family denies prior hx of seizures or family hx of seizures.
Unclear if he missed medications. Of note family reports pt was
heavy drinker until ___ years ago but has been abstinent since.
However, there are reports that he was drinking on golf course.
No recent fevers, illness. 

 
Past Medical History:
seizure disorder
depression
anxiety
graves disease
HTN 
restless leg syndrome
OSA not on CPAP
aortic stenosis s/p valve repair
thyrotoxic periodic paralysis 
 
Social History:
___
Family History:
No family hx of seizures
 
Physical Exam:
General: NAD
HEENT: NC/AT
Abdomen: soft, NT/ND
Extremities: wwp, no C/C/E bilaterally
Skin: no rashes or lesions noted.  

Neurologic: 
-MS: alert, oriented to self, place, and time. attentive, can 
name months of the year backwards. speech is
fluent and he provides a reasonable history.
-CN: PERRL 3->2mm bilaterally, EOMI without nystagmus. face is
symmetric. 
-Motor
   [Delt] [Bic] [Tri] [ECR] [FEx] [IP] [Quad] [Ham] [TA] [Gas]
 L   5      5     5     5     5    5     5      5    5     5
 R   5      5     5     5     5    5     5      5    5     5
-Sensory: intact to LT
-Coordination: intact FNF bilaterally
 
Pertinent Results:
___ 04:00AM BLOOD WBC-9.4 RBC-4.27* Hgb-13.1* Hct-38.9* 
MCV-91 MCH-30.7 MCHC-33.7 RDW-12.0 RDWSD-40.0 Plt ___
___ 06:48AM BLOOD ___ PTT-26.2 ___
___ 04:00AM BLOOD Glucose-88 UreaN-6 Creat-0.7 Na-143 K-4.0 
Cl-104 HCO3-27 AnGap-12
___ 03:08AM BLOOD ALT-7 AST-16 LD(LDH)-292* CK(CPK)-200 
AlkPhos-71 TotBili-0.5
___ 04:00AM BLOOD Calcium-8.5 Phos-2.7 Mg-1.6
___ 03:08AM BLOOD %HbA1c-5.3 eAG-105
___ 03:08AM BLOOD TSH-0.70
___ 03:08AM BLOOD Free T4-1.1
___ 03:08AM BLOOD Phenyto-8.9*
___ 01:15PM BLOOD Phenyto-11.0
___ 01:15PM BLOOD ASA-NEG Ethanol-NEG Acetmnp-NEG 
Tricycl-NEG
___ 04:02PM BLOOD Lactate-2.0
___ 01:24PM BLOOD Lactate-3.2*

EEG ___
IMPRESSION: This is video-EEG monitoring session captured 
several written
notations of leg movements and ___ shaking without 
electrographic correlate
for seizures. The telemetry is notable for faster syperimposed 
beta activity
likely attributable to medication effect (i.e. benzodiazepine 
use). There are
no epileptiform discharges and no electrographic seizures 
captured. Compared
to the prior day's recording there is no change.

___ MR ___ w and w/o contrast
IMPRESSION:
 
 
1. Essentially unremarkable brain MRI without evidence for a 
seizure focus.
2. Small foci of high T2/FLAIR signal abutting the frontal horns 
of lateral
ventricles, right larger than left, are nonspecific but likely 
sequela of mild
chronic small vessel ischemic disease in this age group.
 
Brief Hospital Course:
___ y.o male with PMH seizure disorder (approximately ___ year), AS 
s/p valve repair, thyrotoxic periodic paralysis who presented as 
a transfer from ___ after multiple witnessed generalized 
convulsive seizures. After 6mg of lorazepam seizure had not 
broken so he received keppra 1.5g and phenytoin 1gm which broke 
the seizure and was subsequently intubated for airway 
protection. ___ CT was normal. Patient is followed by 
neurologist in ___ (Dr. ___) and was placed on 
keppra 750mg BID with possible etiology of benzodiazepine 
withdrawal. He estimates having approximately 11 seizures over 
the past year with no medication changes. He has a remote 
history of etoh use. Tox screen positive for benzodiazepines 
only. Denies recent illness, fever, medication changes or missed 
doses.

EEG showed a right hemispheric focus with a clinically 
associated prolonged post-ictal Todds (now resolved) of the left 
side. Patient extubated to room air. Etiology still remains 
unclear, though likely
subtherapeutic keppra for his size. Currently well appearing. 
CSF showing mild poly-predominant pleocytosis, which is likely 
sequelae from seizure rather than infection. 

Transitional Issues:
-HSV PCR pending, however acyclovir was discontinued due to low 
clinical suspicion
-Follow-up in Dr. ___
-Repeat lab testing in ___ months (elevated LDH)
 
Medications on Admission:
Sertraline 50mg daily
 
Discharge Medications:
1.  LevETIRAcetam 1500 mg PO BID 
RX *levetiracetam 500 mg 3 tablet(s) by mouth twice daily Disp 
#*180 Tablet Refills:*3 
2.  Sertraline 50 mg PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Epilepsy

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Dear Mr. ___,

You were admitted after having multiple seizures. You were 
unable to safely breath on your own, so you were briefly 
intubated. You underwent a workup including MRI of the brain, 
which was normal. The most likely etiology was felt to be due to 
the need for higher doses of your anti seizure medication. This 
was increased to 1500mg twice daily. Please take your medication 
as prescribed and do not miss doses. 

You will be seen in Dr. ___ clinic on ___ at 4pm. Prior to appointment, please call ___ to 
register your insurance information on ___. Please review the 
seizure safety plan as below.

It was a pleasure taking care of you.

Sincerely,
___ Neurology

=======================================================
Seizure Safety Plan

Patients at risk for seizures that involves loss of 
consciousness must avoid:
- Driving (for 6 months after a seizure...
            ...UNTIL A PHYSICIAN STATES THAT IT IS ___
- unattended baths, unattended swimming,power tools, heavy 
machinery
- ladders, high platforms, roofs
- any other activity that could pose a safety risk if there was 
a loss of consciousness or uncontrolled body movements

For any seizure involving loss of consciousness, do the 
following:
1. Don't panic - take a deep breath
2. Look at the clock to see what time the seizure started.
3. If the patient is shaking for more than 5 minutes - or has 
repeated seizures without returning to normal in between, call 
___ this is an emergency.
4. As much as possible, move things away from the patient's ___ 
to avoid injury
5. Use pillows or towels to protect the from injury
6. Put them on a bed, couch, or the floor ON THEIR SIDE. This is 
to avoid a condition called aspiration pneumonia, when vomit 
goes into the lungs.
7. DO NOT PUT ANYTHING IN THEIR MOUTH. Patients don't swallow 
their tongues despite the old wives tale. However, putting 
things inside the mouth could lead to choking hazard.
8. When the seizure is over and you are sure they are safe, 
please call the neurology clinic to let us know about a seizure. 

 
Followup Instructions:
___